US03962443
8-Benzyl-5,8-dihydro-2-(1-piperazinyl)-5-oxopyrido [2,3-d]pyrimidine-6-carboxylic acid (compound 33)
Ethyl 8-benzyl-5,8-dihydro-2-(1-piperazinyl)5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (1.5 g) was dissolved in 20 ml of a 12% aqueous solution of sulfuric acid by heating at 90°C for one hour. The resulting solution was filtered to remove a small amount of the insoluble material and the filtrate was neutralized with 28% aqueous ammonia, to separate a solid which was collected, washed with water, and recrystallized from dimethylformamide. There is obtained 1.1 g of the product, m.p. 250° -253°C.

reactant | Ethyl 8-benzyl-5,8-dihydro-2-(1-piperazinyl)5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 1.5 g | C(C1=CC=CC=C1)N1C=C(C(C2=C1N=C(N=C2)N2CCNCC2)=O)C(=O)OCC | C21H23N5O3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 8-Benzyl-5,8-dihydro-2-(1-piperazinyl)-5-oxopyrido [2,3-d]pyrimidine-6-carboxylic acid | 1.1 g | C(C1=CC=CC=C1)N1C=C(C(C2=C1N=C(N=C2)N2CCNCC2)=O)C(=O)O | C19H19N5O3
